US09238639B2
Ethyl N-(6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)glycinate
The mixture of 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-amine (127.3 mg) and THF (4.0 mL) were added TEA (0.172 mL) and ethyl 2-bromoacetate (0.055 mL) at 0° C. The mixture was stirred at room temperature for 4 h. The mixture was quenched with water and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (32.0 mg).

reactant | 6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-amine | 127.3 mg | ClC1=C(COC2=CC3=C(C(CO3)N)C=C2)C=CC(=C1)Cl | C15H13Cl2NO2
reactant | ethyl 2-bromoacetate | 0.055 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | Ethyl N-(6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)glycinate | 32.0 mg | ClC1=C(COC2=CC3=C(C(CO3)NCC(=O)OCC)C=C2)C=CC(=C1)Cl | C19H19Cl2NO4
